US05958910
3-Bromo-4-methoxy-N-[4-(3-nitro-phenyl)-thiazol-2-yl]-benzenesulfonamide
A mixture of 5.0 g of 4-(3-nitro-phenyl)-thiazol-2-ylamine hydrobromide with 5.2 g of 3-bromo-4-methoxy-benzene-sulfonyl chloride was stirred for 3 hours with 20 ml of pyridine. The resulting, red colored suspension was poured into 300 ml of 1N hydrochloric acid and the mixture was extracted with ethyl acetate. The organic phase was dried with magnesium sulphate and concentrated. The residue was dissolved in a mixture of 300 ml of ethanol and 200 ml of 2N sodium hydroxide solution. After the addition of 4.5 g of active charcoal the mixture was stirred at room temperature for 30 minutes and subsequently the active charcoal was filtered off. 4.4 g of 3-bromo-4-methoxy-N-[4-(3-nitro-phenyl)-thiazol-2-yl]-benzenesulfonamide separated as yellow crystals upon neutralization with concentrated hydrochloric acid.

reactant | 4-(3-nitro-phenyl)-thiazol-2-ylamine hydrobromide | 5.0 g | Br.[N+](=O)([O-])C=1C=C(C=CC1)C=1N=C(SC1)N
reactant | 3-bromo-4-methoxy-benzene-sulfonyl chloride | 5.2 g | BrC=1C=C(C=CC1OC)S(=O)(=O)Cl | C7H6BrClO3S
reactant | hydrochloric acid | 1N, 300 ml | Cl | ClH
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3-Bromo-4-methoxy-N-[4-(3-nitro-phenyl)-thiazol-2-yl]-benzenesulfonamide | BrC=1C=C(C=CC1OC)S(=O)(=O)NC=1SC=C(N1)C1=CC(=CC=C1)[N+](=O)[O-] | C16H12BrN3O5S2
